US08461167B2
tert-butyl[4-methyl-3-(trimethylsilyl)phenyl](trimethylsilyl)carbamate
To a stirred solution of tert-butyl (3-bromo-4-methylphenyl)carbamate (2.86 g, 10 mmol) in THF (20 mL) was added n-BuLi (2.5 M in hexanes, 8.6 mL, 22 mmol) at −78° C. and the solution was stirred at this temperature for another 30 min. Trimethylsilyl chloride (2.39 g, 22 mmol) was added at −78° C. and the reaction mixture was then allowed to warm up to r.t. and stirred at r.t. for 1 hr. The reaction was quenched with H2O. EtOAc and more water were added for extraction. The combined organic layer was dried (Na2SO4), filtered, concentrated, and the resulting residue was purified by silica gel flash chromatography (eluted with 20% EtOAc in Hexanes) to give the desired product as a white solid (3.33 g, 95%).

reactant | tert-butyl (3-bromo-4-methylphenyl)carbamate | 10 mmol, 2.86 g | BrC=1C=C(C=CC1C)NC(OC(C)(C)C)=O | C12H16BrNO2
reactant | n-BuLi | 22 mmol, 2.5 M, 8.6 mL | [Li]CCCC
reactant | Trimethylsilyl chloride | 22 mmol, 2.39 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl[4-methyl-3-(trimethylsilyl)phenyl](trimethylsilyl)carbamate | 3.33 g, 95% | C(C)(C)(C)OC(N([Si](C)(C)C)C1=CC(=C(C=C1)C)[Si](C)(C)C)=O | C18H33NO2Si2
